US07452886B2
7-(2,2-Dimethyl-propyl)-6-piperazin-1-ylmethyl-7H-pyrrolo[2,3-d]pyrimidine-2-carbonitrile
4N HCl/dioxane is added to 4-[2-cyano-7-(2,2-dimethyl-propyl)-7H-pyrrolo[2,3-d]pyrimidin-6-ylmethyl]-piperazine-1-carboxylic acid .tert.-butyl ester at 0° C. and stirred at 25° C. for 90 min. Ether is added to the residue to afford a precipitate, which is collected by filtration. The crude product is dissolved in MeOH and purified by reverse phase HPLC. The fractions (fraction Nos. 23-25) are collected and evaporated. The residue is extracted with ethyl acetate. The organic layer is washed with saturated sodium bicarbonate and brine, and dried over magnesium sulfate and filtrated. The solvent is removed by evaporation and dried in vacuo to afford the title compound. yield 58.1%, Rf=0.30 (CH2Cl2:MeOH=8:2). 1H-NMR (400 MHz, CDCl3) δ 1.01(s, 9H), 2.43(br, 4H), 2.90(br, 4H), 3.76(s, 2H), 4.36(s, 2H), 6.57(s, 1H), 8.89(s, 1H),

reactant | HCl dioxane | 4N | Cl.O1CCOCC1
reactant | 4-[2-cyano-7-(2,2-dimethyl-propyl)-7H-pyrrolo[2,3-d]pyrimidin-6-ylmethyl]-piperazine-1-carboxylic acid | C(#N)C=1N=CC2=C(N1)N(C(=C2)CN2CCN(CC2)C(=O)O)CC(C)(C)C | C18H24N6O2
solvent | Ether | CCOCC | C4H10O
product | 7-(2,2-Dimethyl-propyl)-6-piperazin-1-ylmethyl-7H-pyrrolo[2,3-d]pyrimidine-2-carbonitrile | yield 58.1% | CC(CN1C(=CC2=C1N=C(N=C2)C#N)CN2CCNCC2)(C)C | C17H24N6
